US07402672B2
3-(2-Aminophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-12
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide (1.0 equiv) 6a-1 in DMF with bis-(2-aminophenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-12 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.29 (bs, 1H), 8.49 (dd, 1H, J=1.3, 4.5 Hz), 8.18 and 8.15 (overlapping bs, 2H), 7.83 (dd, 1H, J=1.4, 8.2 Hz), 7.28 (dd, 1H, J=4.5, 8.3 Hz), 7.15 (dd, 1H, J=1.4, 7.8 Hz), 6.93 (m, 1H), 6.62 (d, 1H, J=6.9 Hz), 6.39 (m, 1H), 5.74 (overlapping bs, 2H); MS Obs 288.2 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 1.0 equiv | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2-aminophenyl)disulfide | 1.1 equiv | NC1=C(C=CC=C1)SSC1=C(C=CC=C1)N | C12H12N2S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-Aminophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | NC1=C(C=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H12N4OS
